US04128648
B. 2,3,8,9-Tetrahydro-5-(4-methoxy-2,3-dimethylphenyl)-9-[(4-methoxy-2,3-dimethylphenyl)-methylene]-5H,6H-pyrano[4,3-d]thiazolo[3,2-a]pyrimidine
A stirred solution of tetrahydro-3,5-bis[(4-methoxy-2,3-dimethylphenyl)methylene]-4H-pyran-4-one (3.0 g, 7.6 mmole) and 2-amino-2-thiazoline (1.0 g, 9.7 mmole) in 75 ml of CHCl3 is heated at reflux temperature for 72 hours. After cooling, the solution is filtered to remove a small amount of insoluble material. The solvent is evaporated to give an oily residue. Trituration with warm EtOH yields 2.7 g of a yellow solid, m.p. 226°-228° d. Crystallization from 15 ml of DMF gives 2.3 g (63%) of cream colored product, m.p. 235°-237°.

reactant | tetrahydro-3,5-bis[(4-methoxy-2,3-dimethylphenyl)methylene]-4H-pyran-4-one | 7.6 mmole, 3.0 g | COC1=C(C(=C(C=C1)C=C1COCC(C1=O)=CC1=C(C(=C(C=C1)OC)C)C)C)C | C25H28O4
reactant | 2-amino-2-thiazoline | 9.7 mmole, 1.0 g | NC=1SCCN1 | C3H6N2S
reactant | EtOH | CCO | C2H6O
solvent | CHCl3 | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3,8,9-Tetrahydro-5-(4-methoxy-2,3-dimethylphenyl)-9-[(4-methoxy-2,3-dimethylphenyl)-methylene]-5H,6H-pyrano[4,3-d]thiazolo[3,2-a]pyrimidine | 2.7 g | COC1=C(C(=C(C=C1)C1C2=C(N=C3N1CCS3)C(COC2)=CC2=C(C(=C(C=C2)OC)C)C)C)C | C28H32N2O3S
